US04260755
3-(Methoxymethyl)-6-[3-(trifluoromethyl)-phenyl]-1,2,4-triazolo[4,3-b]pyridazine
To a mixture of 0.02 mole of 3-hydrazino-6-[3-(trifluoromethyl)phenyl]pyridazine in 50 ml. of dioxane is added 0.01 mole of methoxyacetyl chloride. The mixture is heated at reflux temperature for 4 hours, then is filtered. The filtrate is evaporated and the residue is crystallized from dichloromethane-hexane to give the product of the Example, m.p. 149°-150° C.

reactant | 3-hydrazino-6-[3-(trifluoromethyl)phenyl]pyridazine | 0.02 mole | N(N)C=1N=NC(=CC1)C1=CC(=CC=C1)C(F)(F)F | C11H9F3N4
reactant | methoxyacetyl chloride | 0.01 mole | COCC(=O)Cl | C3H5ClO2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-(Methoxymethyl)-6-[3-(trifluoromethyl)-phenyl]-1,2,4-triazolo[4,3-b]pyridazine | COCC1=NN=C2N1N=C(C=C2)C2=CC(=CC=C2)C(F)(F)F | C14H11F3N4O
